US06518423B1
Methyl 4-(1-benzylpiperidin-4-yl)-3,3-dimethylbutanoate
To a solution of 4.7 g of 4-(1-benzylpiperidin-4-yl)-3,3-dimethylbutyronitrile in ethylene glycol (20 ml) was added 30 ml of an aqueous solution of 23 g of potassium hydroxide and the resulting mixture was reacted at 200° C. for 10 hours. After bringing back to room temperature, water was added to the reaction mixture. Then the reaction mixture was made weakly acidic with hydrochloric acid. After adding ethanol, the solvent was distilled off under reduced pressure. The crude product thus obtained was suspended in 500 ml of methanol and 6.3 ml of thionyl chloride was dropped thereinto at 0° C. After stirring at room temperature for 72 hours, the solvent was distilled off under reduced pressure. Then an aqueous solution of sodium hydroxide was added to the residue followed by extraction with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate) to thereby give 3.5 g of the title compound as a colorless oily substance.

reactant | 4-(1-benzylpiperidin-4-yl)-3,3-dimethylbutyronitrile | 4.7 g | C(C1=CC=CC=C1)N1CCC(CC1)CC(CC#N)(C)C | C18H26N2
reactant | potassium hydroxide | 23 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | thionyl chloride | 6.3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ethylene glycol | 20 ml | C(CO)O | C2H6O2
solvent | methanol | 500 ml | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | Methyl 4-(1-benzylpiperidin-4-yl)-3,3-dimethylbutanoate | 3.5 g | C(C1=CC=CC=C1)N1CCC(CC1)CC(CC(=O)OC)(C)C | C19H29NO2
